US07932262B2
Step 3. 2-Amino-4-bromobenzaldehyde
To a 0.2M solution of 4-bromo-2-nitrobenzaldehyde in acetic acid and ethanol (v/v 1:1) solvent system was added iron powder. The reaction mixture was stirred at ambient temperature under Argon for 1.5 h and LCMS showed the reaction was complete. Insoluble solid was filtered off and the filtrate was concentrated in vacuum. Residue was diluted with ethyl acetate and was washed with saturated sodium bicarbonate, brine, dried over sodium sulfate and concentrated. Crude product was purified by Biotage using 15% ethyl acetate in hexane to give desired product in 38% yield. ES/MS m/z 200/202 (MH+).

reactant | 4-bromo-2-nitrobenzaldehyde | BrC1=CC(=C(C=O)C=C1)[N+](=O)[O-] | C7H4BrNO3
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethanol | C(C)O | C2H6O
catalyst | iron | [Fe] | Fe
product | 2-Amino-4-bromobenzaldehyde | 38% yield | NC1=C(C=O)C=CC(=C1)Br | C7H6BrNO
